US09085576B2
Step 2: [(1R,S),(2R,S)]-2-((S,R)-1-amino-2,2-difluoro-1-(3-fluoro-2-methylphenyl)ethyl)cyclopropanol (28b rac)
To a solution of 4-(difluoromethyl)-4-(3-fluoro-2-methylphenyl)-2-oxa-3-azabicyclo[3.1.0]hexane (0.81 g, 3.33 mmol) in acetic acid, glacial (7.69 ml, 133 mmol) was added zinc (1.306 g, 19.98 mmol) portionwise at RT followed by trifluoroacetic acid (2.474 ml, 33.3 mmol). The reaction was stirred at RT for 1 hour. The reaction was filtered through a pad of celite and concentrated under vacuum. The residue was dissolved in iced water and the solution was basified by the addition of 5N NaOH to pH 12. The basic aqueous layer was back extracted with EtOAc. The organic layer was washed with brine, dried over sodium sulfate, and concentrated to dryness to afford the title compound 2-(1-amino-2,2-difluoro-1-(3-fluoro-2-methylphenyl)ethyl)cyclopropanol (0.61 g, 2.487 mmol, 74.7% yield). LC/MS (ESI+) m/z=246.1 (M+H).

reactant | 4-(difluoromethyl)-4-(3-fluoro-2-methylphenyl)-2-oxa-3-azabicyclo[3.1.0]hexane | 3.33 mmol, 0.81 g | FC(C1(NOC2CC12)C1=C(C(=CC=C1)F)C)F | C12H12F3NO
reactant | trifluoroacetic acid | 33.3 mmol, 2.474 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | zinc | 19.98 mmol, 1.306 g | [Zn] | Zn
product | 2-(1-amino-2,2-difluoro-1-(3-fluoro-2-methylphenyl)ethyl)cyclopropanol | 2.487 mmol, 0.61 g, 74.7% yield | NC(C(F)F)(C1=C(C(=CC=C1)F)C)C1C(C1)O | C12H14F3NO
